US04542132
A solution of 4-propionyl pyridine (10.0 g) in acetic acid (100 cm3) was hydrogenated over platinum oxide (0.5 g) at 60° and 60 p.s.i. pressure for 60 hours. The mixture was filtered through "Avicel" and volatile material was removed in vacuo to give the crude acetate salt (12.0 g). A portion (1 g) was taken into chloroform (20 cm3), washed with 1M sodium hydroxide solution (10 cm3), dried and evaporated to afford 1-(4-piperidyl)propanol, m.p. 50° (0.70 g).

reactant | 4-propionyl pyridine | 10.0 g | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
reactant | chloroform | 20 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 100 cm3 | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | 1-(4-piperidyl)propanol | N1CCC(CC1)C(CC)O | C8H17NO
